US07851473B2
4-(4-Phenyl-1,3-thiazol-2-yl)-N-[4-(propionylamino)phenyl]piperazine-1-carboxamide
A solution of 2,2,2-trichloroethyl [4-(propionylamino)phenyl]carbamate (200 mg, 0.589 mmol), 1-(4-phenyl-1,3-thiazol-2-yl)piperazine (145 mg, 0.589 mmol), diisopropylethylamine (0.206 ml, 1.18 mmol) and dimethyl sulfoxide (4 ml) was stirred at 70° C. for 24 hours, and the reaction mixture was poured into water, and the mixture was extracted with ethyl acetate. The extract was washed with water, and dried over anhydrous magnesium sulfate. The solvent was distilled off under reduced pressure, and the residue was recrystallized from ethyl acetate to give 113 mg (44.0%) of the desired product as a solid.

reactant | 2,2,2-trichloroethyl [4-(propionylamino)phenyl]carbamate | 0.589 mmol, 200 mg | C(CC)(=O)NC1=CC=C(C=C1)NC(OCC(Cl)(Cl)Cl)=O | C12H13Cl3N2O3
reactant | 1-(4-phenyl-1,3-thiazol-2-yl)piperazine | 0.589 mmol, 145 mg | C1(=CC=CC=C1)C=1N=C(SC1)N1CCNCC1 | C13H15N3S
reactant | diisopropylethylamine | 1.18 mmol, 0.206 ml | C(C)(C)N(CC)C(C)C | C8H19N
reactant | dimethyl sulfoxide | 4 ml | CS(=O)C | C2H6OS
solvent | water | O | H2O
product | 4-(4-Phenyl-1,3-thiazol-2-yl)-N-[4-(propionylamino)phenyl]piperazine-1-carboxamide | 113 mg, 44.0% | C1(=CC=CC=C1)C=1N=C(SC1)N1CCN(CC1)C(=O)NC1=CC=C(C=C1)NC(CC)=O | C23H25N5O2S
